US07468462B2
Toluene-4-sulfonic acid 6-(3-adamantan-1-yl-4-methoxyphenyl)-naphthalen-2-yl ester
To a solution of 2-tert-butyl-dimethylsiloxy-6-(3-adamantan-1-yl-4-methoxyphenyl)-naphthalene (14 g, 28 mmol) in THF (160 ml) was added TBAF (28 ml, 28 mmol) and the reaction stirred at RT for 5 min. The reaction mixture was diluted with EtOAc and washed with 1N HCl, brine, and dried over Na2SO4. The crude product was concentrated in vacuo and the residue was dissolved in DCM (200 ml). DMAP (0.2 equiv), DIEA (1.2 equiv) and toluene-4-sulfonyl chloride (1 equiv) were added and the reaction was stirred at RT for 30 minutes. The solvent was removed, the residue was dissolved in EtOAc, washed with 1N HCl, brine, and dried over Na2SO4. The solvent was removed and the crude product was recrystallized from acetonitrile.

reactant | 2-tert-butyl-dimethylsiloxy-6-(3-adamantan-1-yl-4-methoxyphenyl)-naphthalene | 28 mmol, 14 g | O([Si](C)(C)C(C)(C)C)C1=CC2=CC=C(C=C2C=C1)C1=CC(=C(C=C1)OC)C12CC3CC(CC(C1)C3)C2 | C33H42O2Si
reactant | TBAF | 28 mmol, 28 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | DIEA | 1.2 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | toluene-4-sulfonyl chloride | 1 equiv | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 160 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | DMAP | 0.2 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | Toluene-4-sulfonic acid 6-(3-adamantan-1-yl-4-methoxyphenyl)-naphthalen-2-yl ester | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)OS(=O)(=O)C2=CC=C(C=C2)C | C34H34O4S
